US07071177B2
Chlorosulfonic acid (5 mL) was cooled to 0° C. under a nitrogen atmosphere and treated with para-methylbenzanilide (850 mg, 4.0 mmol). The resulting solution was stirred at room temperature for 3 h, recooled with an ice-bath, treated with ca. 25 g of ice, ca. 100 mL of saturated sodium bicarbonate and bis(para-methoxybenzyl)amine (prepared according to J. Org. Chem. 1992, 57, 7056, 1.1 g, 4.4 mmol) dissolved in ca. 50 mL of dichloromethane. The biphasic mixture was stirred vigorously at room temperature for 16 h. The layers were separated and the aqueous phase was extracted with dichloromethane, washed with brine and dried over Na2SO4. Purification by column chromatography, eluting with 1:3 ethyl acetate/hexane, provided 1.4 g of 4-[(4-methyl-benzoyl)-amino)]-[N,N-bis(4-methoxy-benzyl)]-benzenesulfonamide.

reactant | Chlorosulfonic acid | 5 mL | ClS(=O)(=O)O | ClHO3S
reactant | para-methylbenzanilide | 4.0 mmol, 850 mg | CC1=CC=C(NC(C2=CC=CC=C2)=O)C=C1 | C14H13NO
reactant | sodium bicarbonate | ca. 100 mL | C([O-])(O)=O.[Na+]
reactant | bis(para-methoxybenzyl)amine | 4.4 mmol, 1.1 g | COC1=CC=C(CNCC2=CC=C(C=C2)OC)C=C1 | C16H19NO2
solvent | dichloromethane | ca. 50 mL | ClCCl | CH2Cl2
product | [N,N-bis(4-methoxy-benzyl)]-benzenesulfonamide | COC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)CC2=CC=C(C=C2)OC)C=C1 | C22H23NO4S
